US08623877B2
6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-2-pyrimidin-5-yl-1,2,3,4-tetrahydro-isoquinoline
The title compound was synthesized in substantially the same way as Example 1 by condensation of 6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline with 5-bromo-pyrimidine.

reactant | 6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=C2CCNCC2=CC1 | C18H27N3
reactant | 5-bromo-pyrimidine | BrC=1C=NC=NC1 | C4H3BrN2
product | 6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-2-pyrimidin-5-yl-1,2,3,4-tetrahydro-isoquinoline | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=C2CCN(CC2=CC1)C=1C=NC=NC1 | C22H29N5
